US06573283B2
(2-Methyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl)methylchloride
A solution of 2.3 g (5.4 mmole) of [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride in 50 mL of acetic acid was refluxed under nitrogen for 24 hours. The solvent was removed in vacuum and the residue dissolved in 400 mL of ethyl acetate, washed with 300 mL of water and with 300 mL of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated to a crude foam in vacuum. The crude product was column chromatographed on silica gel with 2% methanol in chloroform and the product fractions combined and concentrated in vacuum to give 1.1 g of the (R)-enantiomer of the title compound as a yellow oil. MS (+APCI) m/z 239 (M+H)+.

reactant | [(2R)-7,8-diamino-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate dihydrochloride | 5.4 mmole, 2.3 g | Cl.Cl.CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)N
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (2-Methyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl)methylchloride | CC=1NC=2C(=C3OC(COC3=CC2)CCl)N1 | C11H11ClN2O2
